US06333330B1
2-Ethoxy-5-(4-methylpiperazin-1-ylsulphonyl)benzoic acid chloride hydrochloride
Oxalyl chloride (11.7 ml, 134 mmol) was added dropwise to an ice cold suspension of 2-ethoxy-5(4methylpiperazin-1-ylsulphonyl)benzoic acid (EP 812845) (20.0 g, 60.9 mmol) and dimethylformamide (2 drops) in dichloromethane (200 ml) over 15 minutes, and the reaction mixture stirred at room temperature for 18 hours. The mixture was concentrated under reduced pressure, the residue triturated with ether then ethyl acetate and dried at 40° C. for 16 hours, to afford the title compound, (19.6 g; 93%).

reactant | Oxalyl chloride | 134 mmol, 11.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-ethoxy-5(4methylpiperazin-1-ylsulphonyl)benzoic acid | 60.9 mmol, 20.0 g | C(C)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C14H20N2O5S
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-Ethoxy-5-(4-methylpiperazin-1-ylsulphonyl)benzoic acid chloride hydrochloride | Cl.C(C)OC1=C(C(=O)Cl)C=C(C=C1)S(=O)(=O)N1CCN(CC1)C | InChI=1S/C14H19ClN2O4S.ClH/c1-3-21-13-5-4-11(10-12(13)14(15)18)22(19,20)17-8-6-16(2)7-9-17;/h4-5,10H,3,6-9H2,1-2H3;1H
